US09227919B2
Step-1: N—((R)-1-(Naphthalen-1-yl)ethyl)-4-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxamide
To a mixture of 4-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (4.6 g, 24.19 mmol) (Tetrahedron: Asymmetry 14, 2003, 3689; Journal of Medicinal Chemistry 25, 1982, 535), in DMF (20 mL), CDI (3.92 g, 24.19 mmol) was added. The reaction mixture was stirred at room temperature (RT) for 2 h. Then (R)-1-(naphthalen-1-yl)ethanamine (5.40 g, 31.5 mmol) was added and the reaction mixture was stirred at RT overnight. After completion of reaction, ice was added to the reaction mixture, solid precipitated out was filtered on Buchner funnel, washed with DM water (50 mL) and dried to get crude compound. Compound was further purified by flash chromatography (biotage) using eluent 15% ethyl acetate:hexane to yield the title compound (8 g, 96%); m/z 344.

reactant | 4-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 24.19 mmol, 4.6 g | O=C1CC(CC2=CC=CC=C12)C(=O)O | C11H10O3
reactant | CDI | 24.19 mmol, 3.92 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (R)-1-(naphthalen-1-yl)ethanamine | 31.5 mmol, 5.40 g | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N | C12H13N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N—((R)-1-(Naphthalen-1-yl)ethyl)-4-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 8 g, 96% | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC(=O)C1CC2=CC=CC=C2C(C1)=O | C23H21NO2
